* Copyright © Analog Devices, Inc. 2019.  All rights reserved.
*
*
.subckt ADG1611 1 2 3 4 5 6 7 8 9 10 11 12 13
C1 1 5 5p
C2 4 5 63p
C5 13 5 63p
A1 1 5 5 5 5 5 N002 5 SCHMITT Vt=1.4 Vh=1m tripdt=10n Trise=250n Tfall=500n
S1 N004 13 5 N002 TN
S2 4 N004 N002 5 BN
S3 13 N006 N002 5 TP
S4 N006 4 5 N002 BP
C6 2 5 63p
C7 3 5 63p
M1 2 N004 3 3 N
M2 3 N006 2 2 P
D1 3 13 S
D2 4 2 S
D3 2 13 S
D4 4 3 S
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.ends ADG1611
*
.subckt ADG1612 1 2 3 4 5 6 7 8 9 10 11 12 13
C1 1 5 5p
C2 4 5 63p
C5 13 5 63p
A1 1 5 5 5 5 N002 5 5 SCHMITT Vt=1.4 Vh=1m tripdt=10n Trise=250n Tfall=500n
S1 N004 13 5 N002 TN
S2 4 N004 N002 5 BN
S3 13 N006 N002 5 TP
S4 N006 4 5 N002 BP
C6 2 5 63p
C7 3 5 63p
M1 2 N004 3 3 N
M2 3 N006 2 2 P
D1 3 13 S
D2 4 2 S
D3 2 13 S
D4 4 3 S
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.ends ADG1612
*
.subckt ADG1633 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
C1 15 16 8p
C2 13 16 63p
C5 1 16 63p
S1 N004 1 16 N002 TN
S2 13 N004 N002 16 BN
S3 1 N009 N002 16 TP
S4 N009 13 16 N002 BP
C6 3 16 33p
C7 2 16 19p
M1 3 N004 2 2 N m=.22
M2 2 N009 3 3 P m=.22
D1 2 1 S
D2 13 3 S
D3 3 1 S
D4 13 2 S
A2 15 16 16 16 16 N007 N005 16 SCHMITT Vt=1.4 Vh=1m tripdt=5n Trise=100n Td=80n
S5 N015 1 16 N012 TN
S6 13 N015 N012 16 BN
S7 1 N014 N012 16 TP
S8 N014 13 16 N012 BP
C11 4 16 19p
M3 3 N015 4 4 N m=.22
M4 4 N014 3 3 P m=.22
D5 4 1 S
D6 13 3 S
D7 3 1 S
D8 13 4 S
C8 14 16 8p
A3 14 16 16 16 16 N008 16 16 SCHMITT Vt=1.4 Vh=1m tripdt=5n Trise=100n Tfall=225n
A5 16 N005 16 N008 16 N002 16 16 AND Trise=90n Tfall=10n tripdt=5n
A1 16 N007 16 N008 16 N012 16 16 AND Trise=90n Tfall=10n tripdt=5n
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.3 Cgs=10p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.3 Cgs=10p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.ends ADG1633
*
.subckt ADG5248F 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20
C2 3 14 63p
C5 13 14 63p
S1 N046 13 14 N042 TN
S2 3 N046 N042 14 BN
S3 13 N049 N042 14 TP
S4 N049 3 14 N042 BP
C7 7 14 3p
M1 N021 N046 N043 N043 N
M2 N043 N049 N021 N021 P
A4 UVLO N028 N029 N047 N040 S1 14 14 AND Trise=50n Tfall=250n tripdt=5n
A16 1 14 14 14 14 N028 N033 14 SCHMITT Vt=1.4 Vh=1m Trise=100n Tfall=150n
C3 2 14 8p
C4 1 14 8p
C9 16 14 8p
C10 15 14 8p
S5 N038 13 14 N035 TN
S6 3 N038 N035 14 BN
S7 13 N039 N035 14 TP
S8 N039 3 14 N035 BP
C8 6 14 3p
M3 N021 N038 N036 N036 N
M4 N036 N039 N021 N021 P
S9 N026 13 14 N024 TN
S10 3 N026 N024 14 BN
S11 13 N027 N024 14 TP
S12 N027 3 14 N024 BP
C12 5 14 3p
M5 N021 N026 N025 N025 N
M6 N025 N027 N021 N021 P
S13 N018 13 14 N015 TN
S14 3 N018 N015 14 BN
S15 13 N020 N015 14 TP
S16 N020 3 14 N015 BP
C13 8 14 12p
C14 4 14 3p
M7 N021 N018 N016 N016 N
M8 N016 N020 N021 N021 P
S17 N074 13 14 N061 TN
S18 3 N074 N061 14 BN
S19 13 N075 N061 14 TP
S20 N075 3 14 N061 BP
C16 9 14 3p
M9 N021 N074 N072 N072 N
M10 N072 N075 N021 N021 P
S21 N070 13 14 N059 TN
S22 3 N070 N059 14 BN
S23 13 N071 N059 14 TP
S24 N071 3 14 N059 BP
C18 10 14 3p
M11 N021 N070 N068 N068 N
M12 N068 N071 N021 N021 P
S25 N066 13 14 N056 TN
S26 3 N066 N056 14 BN
S27 13 N067 N056 14 TP
S28 N067 3 14 N056 BP
C20 11 14 3p
M13 N021 N066 N064 N064 N
M14 N064 N067 N021 N021 P
S29 N057 13 14 N052 TN
S30 3 N057 N052 14 BN
S31 13 N060 N052 14 TP
S32 N060 3 14 N052 BP
C22 12 14 3p
M15 N021 N057 N054 N054 N
M16 N054 N060 N021 N021 P
A9 16 14 14 14 14 N029 N034 14 SCHMITT Vt=1.4 Vh=1m Trise=100n Tfall=150n
A10 2 14 14 14 14 N031 N040 14 SCHMITT Vt=1.4 Vh=1m Trise=100n Tfall=150n
A11 15 14 14 14 14 N047 N053 14 SCHMITT Vt=1.4 Vh=1m Trise=100n Tfall=150n
D33 14 2 ESD
D34 14 15 ESD
D35 14 16 ESD
D36 14 1 ESD
C6 18 14 20p
C11 17 14 20p
A13 17 4 14 14 14 14 S1L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
D37 S1H F1 OR
D38 S1L F1 OR
D39 S2H F2 OR
D40 S2L F2 OR
D41 S3H F3 OR
D42 S3L F3 OR
D43 S4H F4 OR
D44 S4L F4 OR
D45 S5H F5 OR
D46 S5L F5 OR
D47 S6H F6 OR
D48 S6L F6 OR
D49 S7H F7 OR
D50 S7L F7 OR
D51 S8H F8 OR
D52 S8L F8 OR
D53 F1 N011 OR
D54 F2 N011 OR
D55 F3 N011 OR
D56 F4 N011 OR
D57 F5 N011 OR
D58 F6 N011 OR
D59 F7 N011 OR
M17 13 14 N001 N001 3V
C15 N001 14 10p
S33 19 14 N014 14 OUT
S34 N001 19 N009 14 OUT
A30 14 N008 14 UVLO 14 14 N009 14 AND Trise=15n Ref=.95
D60 14 19 ESD
A29 14 UVLO 14 N013 14 14 N014 14 AND Trise=15n Ref=.95
C17 19 14 4p
A32 13 3 14 14 14 14 UVLO 14 SCHMITT Vt=7.9 Vh=50m Rhigh=1K Rlow=10
A33 18 14 14 14 14 14 UVLO 14 SCHMITT Vt=4.44 Vh=50m Rhigh=1K Rlow=10
A34 13 18 14 14 14 14 UVLO 14 SCHMITT Vt=-50m Vh=25m Rhigh=1K Rlow=10
A35 17 3 14 14 14 14 UVLO 14 SCHMITT Vt=-50m Vh=25m Rhigh=1K Rlow=10
A36 17 14 14 14 14 UVLO 14 14 SCHMITT Vt=50m Vh=25m Rhigh=1K Rlow=10
D61 F1 N015 OR
D62 S1 N015 OR
B1 14 FX2 I=(!V(S1,14) & V(S1L,14))|(!V(S2,14)&V(S2L,14))|(!V(S3,14)&V(S3L,14))|(!V(S4,14)&V(S4L,14))|(!V(S5,14)&V(S5L,14))|(!V(S6,14)&V(S6L,14))|(!V(S7,14)&V(S7L,14))|(!V(S8,14)&V(S8L,14)) Rpar=1 Cpar=1n NoJacob
B2 14 FX1 I=(!V(S1,14)&V(S1H,14))|(!V(S2,14)&V(S2H,14))|(!V(S3,14)&V(S3H,14))|(!V(S4,14)&V(S4H,14))|(!V(S5,14)&V(S5H,14))|(!V(S6,14)&V(S6H,14))|(!V(S7,14)&V(S7H,14))|(!V(S8,14)&V(S8H,14)) Rpar=1 Cpar=1n NoJacob
S35 8 18 N019 14 20µA
S36 8 17 N023 14 20µA
D63 S2 N024 OR
D64 S3 N035 OR
D65 S4 N042 OR
D66 S5 N052 OR
D67 S6 N056 OR
D68 S7 N059 OR
D69 S8 N061 OR
D70 F2 N024 OR
D71 F3 N035 OR
D72 F4 N042 OR
D73 F5 N052 OR
D74 F6 N056 OR
D75 F7 N059 OR
A12 4 18 14 14 14 14 S1H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A37 14 N028 N029 N031 14 14 Q1 14 AND Trise=90n Tfall=120n tripdt=5n
A38 14 N033 N029 N031 14 14 Q2 14 AND Trise=90n Tfall=120n tripdt=5n
A39 14 N028 N034 N031 14 14 Q3 14 AND Trise=90n Tfall=120n tripdt=5n
A40 14 N033 N034 N031 14 14 Q4 14 AND Trise=90n Tfall=120n tripdt=5n
A41 14 N028 N029 N040 14 14 Q5 14 AND Trise=90n Tfall=120n tripdt=5n
A42 14 N033 N029 N040 14 14 Q6 14 AND Trise=90n Tfall=120n tripdt=5n
A43 14 N028 N034 N040 14 14 Q7 14 AND Trise=90n Tfall=120n tripdt=5n
A44 14 N033 N034 N040 14 14 Q8 14 AND Trise=90n Tfall=120n tripdt=5n
S37 20 14 N007 14 OUT
S38 N001 20 N003 14 OUT
A45 14 N002 14 UVLO 14 14 N003 14 AND Trise=15n Ref=.95
D77 14 20 ESD
A46 14 UVLO 14 N006 14 14 N007 14 AND Trise=15n Ref=.95
C19 20 14 5p
A47 N005 14 14 14 14 N006 N002 14 BUF Trise=15n
D78 F8 N011 OR
B3 14 N005 I=(V(Q1,14)&V(F1,14))|(V(Q2,14)&V(F2,14))|(V(Q3,14)&V(F3,14))|(V(Q4,14)&V(F4,14))|(V(Q5,14)&V(F5,14))|(V(Q6,14)&V(F6,14))|(V(Q7,14)&V(F7,14))|(V(Q8,14)&V(F8,14)) Rpar=1 Cpar=1n NoJacob
S39 4 N016 14 F1 DC
S40 5 N025 14 F2 DC
S41 6 N036 14 F3 DC
S42 7 N043 14 F4 DC
S43 12 N054 14 F5 DC
S44 11 N064 14 F6 DC
S45 10 N068 14 F7 DC
S46 9 N072 14 F8 DC
B4 SX 0 V= !V(S1) ? V(4) :(!V(S2) ? V(5) : (!V(S3) ? V(6) : (!V(S4) ? V(7) :(!V(S5) ? V(12) : (!V(S6) ? V(11) : (!V(S7) ? V(10) : V(9)))))))
R2 8 N021 R=1Meg*(V(SX,8)/V(13,3))**10+10
A48 14 14 14 N030 N032 _ON ON 14 DFLOP Cout=10n
A52 UVLO 14 14 14 14 N032 14 14 BUF
A53 14 FX1 14 ON 14 14 N019 14 AND Trise=100n
A54 14 FX2 14 ON 14 14 N023 14 AND Trise=100n
D79 _ON N052 OR
D80 _ON N056 OR
D81 _ON N059 OR
D82 _ON N061 OR
D83 _ON N015 OR
D84 _ON N024 OR
D85 _ON N035 OR
D86 _ON N042 OR
A1 UVLO N033 N029 N047 N040 S2 14 14 AND Trise=50n Tfall=250n tripdt=5n
A2 UVLO N028 N034 N047 N040 S3 14 14 AND Trise=50n Tfall=250n tripdt=5n
A3 UVLO N033 N034 N047 N040 S4 14 14 AND Trise=50n Tfall=250n tripdt=5n
A5 UVLO N028 N029 N053 N040 S5 14 14 AND Trise=50n Tfall=250n tripdt=5n
A6 UVLO N033 N029 N053 N040 S6 14 14 AND Trise=50n Tfall=250n tripdt=5n
A7 UVLO N028 N034 N053 N040 S7 14 14 AND Trise=50n Tfall=250n tripdt=5n
A8 UVLO N033 N034 N053 N040 S8 14 14 AND Trise=50n Tfall=250n tripdt=5n
A14 17 5 14 14 14 14 S2L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A15 5 18 14 14 14 14 S2H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A17 6 18 14 14 14 14 S3H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A18 17 6 14 14 14 14 S3L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A19 7 18 14 14 14 14 S4H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A20 17 7 14 14 14 14 S4L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A21 12 18 14 14 14 14 S5H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A22 17 12 14 14 14 14 S5L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A23 17 11 14 14 14 14 S6L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A24 11 18 14 14 14 14 S6H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A25 10 18 14 14 14 14 S7H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A26 17 10 14 14 14 14 S7L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A27 9 18 14 14 14 14 S8H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A28 17 9 14 14 14 14 S8L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A55 N011 14 14 14 14 14 N012 14 BUF Trise=10n Tfall=70u
A31 N012 14 14 14 14 N013 N008 14 SCHMITT Vt=.5 Vh=.45 Trise=10n
C21 N021 14 1p
C23 14 N016 1p
C24 14 N025 1p
C25 14 N036 1p
C26 14 N043 1p
C27 14 N054 1p
C28 14 N064 1p
C29 14 N068 1p
C30 14 N072 1p
A49 FX1 14 FX2 14 N032 N030 14 14 OR
D1 F8 N061 OR
B5 _ON 14 I=smallsig()
.model N VDMOS(Kp=2m Vto= .5 Is=0 mtriode=1 Cgs=.049p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=2m Vto=-.5 pchan Is=0 mtriode=1 Cgs=.049p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model ESD D(Ron=1 Roff=1G epsilon=1)
.model OR D(Ron=1 Roff=1G epsilon=.25)
.model OUT SW(Ron=150 Roff=10Meg Vt=.5 Vh=-.4)
.model 3V VDMOS(Kp=200m Vto=-3 Ksubthres=.1)
.model 20µA SW(Ron=20K Roff=10T Vt=.5 Vh=-10m Ilimit=20u level=2)
.model DC SW(Ron=190 Roff=1G Vt=-.5 Vh=-.4)
.ends ADG5248F
*
.subckt ADG5249F 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20
C2 3 14 63p
C5 13 14 63p
S1 N046 13 14 N042 TN
S2 3 N046 N042 14 BN
S3 13 N048 N042 14 TP
S4 N048 3 14 N042 BP
C7 7 14 3p
M1 N021 N046 N043 N043 N
M2 N043 N048 N021 N021 P
A4 UVLO N028 N029 14 N040 S1 14 14 AND Trise=50n Tfall=250n tripdt=5n
A16 1 14 14 14 14 N028 N033 14 SCHMITT Vt=1.4 Vh=1m Trise=100n Tfall=150n
C3 2 14 8p
C4 1 14 8p
C9 16 14 8p
S5 N038 13 14 N035 TN
S6 3 N038 N035 14 BN
S7 13 N039 N035 14 TP
S8 N039 3 14 N035 BP
C8 6 14 3p
M3 N021 N038 N036 N036 N
M4 N036 N039 N021 N021 P
S9 N026 13 14 N024 TN
S10 3 N026 N024 14 BN
S11 13 N027 N024 14 TP
S12 N027 3 14 N024 BP
C12 5 14 3p
M5 N021 N026 N025 N025 N
M6 N025 N027 N021 N021 P
S13 N018 13 14 N015 TN
S14 3 N018 N015 14 BN
S15 13 N020 N015 14 TP
S16 N020 3 14 N015 BP
C13 8 14 12p
C14 4 14 3p
M7 N021 N018 N016 N016 N
M8 N016 N020 N021 N021 P
S17 N075 13 14 N061 TN
S18 3 N075 N061 14 BN
S19 13 N076 N061 14 TP
S20 N076 3 14 N061 BP
C16 9 14 3p
M9 N059 N075 N073 N073 N
M10 N073 N076 N059 N059 P
S21 N071 13 14 N057 TN
S22 3 N071 N057 14 BN
S23 13 N072 N057 14 TP
S24 N072 3 14 N057 BP
C18 10 14 3p
M11 N059 N071 N069 N069 N
M12 N069 N072 N059 N059 P
S25 N067 13 14 N053 TN
S26 3 N067 N053 14 BN
S27 13 N068 N053 14 TP
S28 N068 3 14 N053 BP
C20 11 14 3p
M13 N059 N067 N065 N065 N
M14 N065 N068 N059 N059 P
S29 N054 13 14 N050 TN
S30 3 N054 N050 14 BN
S31 13 N058 N050 14 TP
S32 N058 3 14 N050 BP
C22 12 14 3p
M15 N059 N054 N051 N051 N
M16 N051 N058 N059 N059 P
A9 16 14 14 14 14 N029 N034 14 SCHMITT Vt=1.4 Vh=1m Trise=100n Tfall=150n
A10 2 14 14 14 14 N031 N040 14 SCHMITT Vt=1.4 Vh=1m Trise=100n Tfall=150n
D33 14 2 ESD
D35 14 16 ESD
D36 14 1 ESD
C6 18 14 20p
C11 17 14 20p
A13 17 4 14 14 14 14 S1L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
D37 S1H F1 OR
D38 S1L F1 OR
D39 S2H F2 OR
D40 S2L F2 OR
D41 S3H F3 OR
D42 S3L F3 OR
D43 S4H F4 OR
D44 S4L F4 OR
D45 S5H F5 OR
D46 S5L F5 OR
D47 S6H F6 OR
D48 S6L F6 OR
D49 S7H F7 OR
D50 S7L F7 OR
D51 S8H F8 OR
D52 S8L F8 OR
D53 F1 N011 OR
D54 F2 N011 OR
D55 F3 N011 OR
D56 F4 N011 OR
D57 F5 N011 OR
D58 F6 N011 OR
D59 F7 N011 OR
M17 13 14 N001 N001 3V
C15 N001 14 10p
S33 19 14 N014 14 OUT
S34 N001 19 N009 14 OUT
A30 14 N008 14 UVLO 14 14 N009 14 AND Trise=15n Ref=.95
D60 14 19 ESD
A29 14 UVLO 14 N013 14 14 N014 14 AND Trise=15n Ref=.95
C17 19 14 4p
A32 13 3 14 14 14 14 UVLO 14 SCHMITT Vt=7.9 Vh=50m Rhigh=1K Rlow=10
A33 18 14 14 14 14 14 UVLO 14 SCHMITT Vt=4.44 Vh=50m Rhigh=1K Rlow=10
A34 13 18 14 14 14 14 UVLO 14 SCHMITT Vt=-50m Vh=25m Rhigh=1K Rlow=10
A35 17 3 14 14 14 14 UVLO 14 SCHMITT Vt=-50m Vh=25m Rhigh=1K Rlow=10
A36 17 14 14 14 14 UVLO 14 14 SCHMITT Vt=50m Vh=25m Rhigh=1K Rlow=10
D61 F1 N015 OR
D62 S1 N015 OR
B1 14 FX2A I=(!V(S1,14)&V(S1L,14))|(!V(S2,14)&V(S2L,14))|(!V(S3,14)&V(S3L,14))|(!V(S4,14)&V(S4L,14)) Rpar=1 Cpar=1n NoJacob
B2 14 FX1A I=(!V(S1,14)&V(S1H,14))|(!V(S2,14)&V(S2H,14))|(!V(S3,14)&V(S3H,14))|(!V(S4,14)&V(S4H,14)) Rpar=1 Cpar=1n NoJacob
S35 8 18 N019 14 20µA
S36 8 17 N023 14 20µA
D63 S2 N024 OR
D64 S3 N035 OR
D65 S4 N042 OR
D66 S5 N050 OR
D67 S6 N053 OR
D68 S7 N057 OR
D69 S8 N061 OR
D70 F2 N024 OR
D71 F3 N035 OR
D72 F4 N042 OR
D73 F5 N050 OR
D74 F6 N053 OR
D75 F7 N057 OR
A12 4 18 14 14 14 14 S1H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A37 14 N028 N029 N031 14 14 Q1 14 AND Trise=90n Tfall=120n tripdt=5n
A38 14 N033 N029 N031 14 14 Q2 14 AND Trise=90n Tfall=120n tripdt=5n
A39 14 N028 N034 N031 14 14 Q3 14 AND Trise=90n Tfall=120n tripdt=5n
A40 14 N033 N034 N031 14 14 Q4 14 AND Trise=90n Tfall=120n tripdt=5n
A41 14 N028 N029 N040 14 14 Q5 14 AND Trise=90n Tfall=120n tripdt=5n
A42 14 N033 N029 N040 14 14 Q6 14 AND Trise=90n Tfall=120n tripdt=5n
A43 14 N028 N034 N040 14 14 Q7 14 AND Trise=90n Tfall=120n tripdt=5n
A44 14 N033 N034 N040 14 14 Q8 14 AND Trise=90n Tfall=120n tripdt=5n
S37 20 14 N007 14 OUT
S38 N001 20 N003 14 OUT
A45 14 N002 14 UVLO 14 14 N003 14 AND Trise=15n Ref=.95
D77 14 20 ESD
A46 14 UVLO 14 N006 14 14 N007 14 AND Trise=15n Ref=.95
C19 20 14 5p
A47 N005 14 14 14 14 N006 N002 14 BUF Trise=15n
D78 F8 N011 OR
B3 14 N005 I=(V(Q1,14)&V(F1,14))|(V(Q2,14)&V(F2,14))|(V(Q3,14)&V(F3,14))|(V(Q4,14)&V(F4,14))|(V(Q5,14)&V(F5,14))|(V(Q6,14)&V(F6,14))|(V(Q7,14)&V(F7,14))|(V(Q8,14)&V(F8,14)) Rpar=1 Cpar=1n NoJacob
S39 4 N016 14 F1 DC
S40 5 N025 14 F2 DC
S41 6 N036 14 F3 DC
S42 7 N043 14 F4 DC
S43 12 N051 14 F5 DC
S44 11 N065 14 F6 DC
S45 10 N069 14 F7 DC
S46 9 N073 14 F8 DC
B4 SX1 0 V= !V(S1) ? V(4) : (!V(S2) ? V(5) : (!V(S3) ? V(6) : V(7)))
R2 8 N021 R=1Meg*(V(SX1,8)/V(13,3))**10+10
A48 14 14 14 N030 N032 _ON ON 14 DFLOP Trise=20n
A52 UVLO 14 14 14 14 N032 14 14 BUF
A53 14 FX1A 14 ON 14 14 N019 14 AND Trise=100n
A54 14 FX2A 14 ON 14 14 N023 14 AND Trise=100n
D79 _ON N050 OR
D80 _ON N053 OR
D81 _ON N057 OR
D82 _ON N061 OR
D83 _ON N015 OR
D84 _ON N024 OR
D85 _ON N035 OR
D86 _ON N042 OR
A1 UVLO N033 N029 14 N040 S2 14 14 AND Trise=50n Tfall=250n tripdt=5n
A2 UVLO N028 N034 14 N040 S3 14 14 AND Trise=50n Tfall=250n tripdt=5n
A3 UVLO N033 N034 14 N040 S4 14 14 AND Trise=50n Tfall=250n tripdt=5n
A5 UVLO N028 N029 14 N040 S5 14 14 AND Trise=50n Tfall=250n tripdt=5n
A6 UVLO N033 N029 14 N040 S6 14 14 AND Trise=50n Tfall=250n tripdt=5n
A7 UVLO N028 N034 14 N040 S7 14 14 AND Trise=50n Tfall=250n tripdt=5n
A8 UVLO N033 N034 14 N040 S8 14 14 AND Trise=50n Tfall=250n tripdt=5n
A14 17 5 14 14 14 14 S2L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A15 5 18 14 14 14 14 S2H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A17 6 18 14 14 14 14 S3H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A18 17 6 14 14 14 14 S3L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A19 7 18 14 14 14 14 S4H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A20 17 7 14 14 14 14 S4L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A21 12 18 14 14 14 14 S5H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A22 17 12 14 14 14 14 S5L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A23 17 11 14 14 14 14 S6L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A24 11 18 14 14 14 14 S6H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A25 10 18 14 14 14 14 S7H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A26 17 10 14 14 14 14 S7L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A27 9 18 14 14 14 14 S8H 14 SCHMITT Vt=.7 Vh=0 Trise=120n Tfall=1.4u
A28 17 9 14 14 14 14 S8L 14 SCHMITT Vt=-.7 Vh=10m Trise=120n Tfall=1.4u
A55 N011 14 14 14 14 14 N012 14 BUF Trise=10n Tfall=70u
A31 N012 14 14 14 14 N013 N008 14 SCHMITT Vt=.5 Vh=.45 Trise=10n
C21 N021 14 1p
C23 14 N016 1p
C24 14 N025 1p
C25 14 N036 1p
C26 14 N043 1p
C27 14 N051 1p
C28 14 N065 1p
C29 14 N069 1p
C30 14 N073 1p
A49 FX1A FX2A FX1B FX2B N032 N030 14 14 OR
D1 F8 N061 OR
C31 15 14 12p
B5 14 FX2B I=(!V(S5,14)&V(S5L,14))|(!V(S6,14)&V(S6L,14))|(!V(S7,14)&V(S7L,14))|(!V(S8,14)&V(S8L,14)) Rpar=1 Cpar=1n NoJacob
B6 14 FX1B I=(!V(S5,14)&V(S5H,14))|(!V(S6,14)&V(S6H,14))|(!V(S7,14)&V(S7H,14))|(!V(S8,14)&V(S8H,14)) Rpar=1 Cpar=1n NoJacob
S47 15 18 N056 14 20µA
S48 15 17 N063 14 20µA
B7 SX2 0 V= !V(S5) ? V(12) : (!V(S6) ? V(11) : (!V(S7) ? V(10) : V(9)))
R1 15 N059 R=1Meg*(V(SX2,15)/V(13,3))**10+10
A11 14 FX1B 14 ON 14 14 N056 14 AND Trise=100n
A50 14 FX2B 14 ON 14 14 N063 14 AND Trise=100n
B8 _ON 14 I=smallsig()
.model N VDMOS(Kp=2m Vto= .5 Is=0 mtriode=1 Cgs=.049p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=2m Vto=-.5 pchan Is=0 mtriode=1 Cgs=.049p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model ESD D(Ron=1 Roff=1G epsilon=1)
.model OR D(Ron=1 Roff=1G epsilon=.25)
.model OUT SW(Ron=150 Roff=10Meg Vt=.5 Vh=-.4)
.model 3V VDMOS(Kp=200m Vto=-3 Ksubthres=.1)
.model 20µA SW(Ron=20K Roff=10T Vt=.5 Vh=-10m Ilimit=20u level=2)
.model DC SW(Ron=190 Roff=1G Vt=-.5 Vh=-.4)
.ends ADG5249F
*
.subckt ADG918 1 2 3 4 5 6 7 8
C1 2 3 5p
C5 1 3 63p
A1 2 N008 3 3 3 N009 N001 3 SCHMITT Vt=0 Vh=1m tripdt=10n Trise=10n
S1 N010 1 3 N009 TN
S2 3 N010 N009 3 BN
S3 1 N011 N009 3 TP
S4 N011 3 3 N009 BP
C6 8 3 .4p
C7 4 3 .4p
M1 8 N010 4 4 N
M2 4 N011 8 8 P
D1 4 1 S
D2 3 8 S
D3 8 1 S
D4 3 4 S
S5 N004 1 3 N001 TN
S6 3 N004 N001 3 BN
S7 1 N005 N001 3 TP
S8 N005 3 3 N001 BP
C3 5 3 .4p
M3 4 N004 5 5 N
M4 5 N005 4 4 P
D5 5 1 S
D6 3 4 S
D7 4 1 S
D8 3 5 S
G1 3 N008 1 3 .5m
R3 N008 3 1K
C2 4 8 54f
C4 5 4 54f
S9 3 8 N009 3 TERM
S10 3 5 N001 3 TERM
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.05 Cgs=.2p Ksubthres=.02 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.05 Cgs=.2p Ksubthres=.02 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.model TERM SW(Ron=50 Roff=1G Vt=.5 Vh=-.4)
.ends ADG918
*
.subckt ADG919 1 2 3 4 5 6 7 8
C1 2 3 5p
C5 1 3 63p
A1 2 N008 3 3 3 N009 N001 3 SCHMITT Vt=0 Vh=1m tripdt=10n Trise=10n
S1 N010 1 3 N009 TN
S2 3 N010 N009 3 BN
S3 1 N011 N009 3 TP
S4 N011 3 3 N009 BP
C6 8 3 .4p
C7 4 3 .4p
M1 8 N010 4 4 N
M2 4 N011 8 8 P
D1 4 1 S
D2 3 8 S
D3 8 1 S
D4 3 4 S
S5 N004 1 3 N001 TN
S6 3 N004 N001 3 BN
S7 1 N005 N001 3 TP
S8 N005 3 3 N001 BP
C3 5 3 .4p
M3 4 N004 5 5 N
M4 5 N005 4 4 P
D5 5 1 S
D6 3 4 S
D7 4 1 S
D8 3 5 S
G1 3 N008 1 3 .5m
R3 N008 3 1K
C2 4 8 54f
C4 5 4 54f
S9 3 8 N009 3 TERM
S10 3 5 N001 3 TERM
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.05 Cgs=.2p Ksubthres=.02 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.05 Cgs=.2p Ksubthres=.02 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.model TERM SW(Ron=.5 Roff=1G Vt=.5 Vh=-.4)
.ends ADG919
